US06610707B1
tert-Butyl N-(3-[1-(1H-benzo[d]imidazol-2-ylsulfonyl)-2-piperidyl]-1,2,4-oxadiazol-5-ylmethyl)carbamate (0.88 g) [see Preparation 85] was dissolved in dioxan (20 ml) and cooled to 0° C. Hydrogen chloride gas was then bubbled through for 10 mins. The reaction mixture was then stirred at room temperature for 1 hr. the solvent was then removed under reduced pressure to afford 3-[1-(1H-benzo[d]imidazol-2-ylsulfonyl)-2-piperidyl]-1,2,4-oxadiazol-5-ylmethylamine (0.67 g) as the hydrochloride salt as a white solid.

reactant | tert-Butyl N-(3-[1-(1H-benzo[d]imidazol-2-ylsulfonyl)-2-piperidyl]-1,2,4-oxadiazol-5-ylmethyl)carbamate | 0.88 g | N1C(=NC2=C1C=CC=C2)S(=O)(=O)N2C(CCCC2)C2=NOC(=N2)CNC(OC(C)(C)C)=O | C20H26N6O5S
solvent | dioxan | 20 ml | O1CCOCC1 | C4H8O2
product | 3-[1-(1H-benzo[d]imidazol-2-ylsulfonyl)-2-piperidyl]-1,2,4-oxadiazol-5-ylmethylamine | 0.67 g | N1C(=NC2=C1C=CC=C2)S(=O)(=O)N2C(CCCC2)C2=NOC(=N2)CN | C15H18N6O3S
